US06166006
In methanol (5 ml) was suspended ethyl 6-(4-methylphenyl)-2-pyridineacrylate (465 mg, 1.74 mmol), and to the mixture was added at 0° C. 1N sodium hydroxide solution (5.22 ml). The mixture was stirred at room temperature for 20 hours. To the mixture was added at 0° C. 1N hydrochloric acid (5.22 ml), and methanol was evaporated under reduced pressure. The aqueous layer extracted with ethyl acetate (30 ml, 20 ml). The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. To the residue was added diisopropylether(5 ml), and Insoluble materials were filtered, which were washed with diisopropylether and dried under reduced pressure to give 6-(4-methylphenyl)-2-pyridineacrylic acid (344 mg, 1.44 mmol, 83%).

reactant | ethyl 6-(4-methylphenyl)-2-pyridineacrylate | 1.74 mmol, 465 mg | CC1=CC=C(C=C1)C1=CC=CC(=N1)C=CC(=O)OCC | C17H17NO2
reactant | sodium hydroxide | 1N, 5.22 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 6-(4-methylphenyl)-2-pyridineacrylic acid | 1.44 mmol, 344 mg, 83% | CC1=CC=C(C=C1)C1=CC=CC(=N1)C=CC(=O)O | C15H13NO2
